US06849648B2
An aliquot of 3-iodobenzoyl chloride (1.1 g, 4.2 mmol) was taken up in tetrahydrofuran (“THF”, 25 mL), and cooled to approximately 0° C. in an ice-water bath. To the cold solution were added 4-cyanobenzylamine hydrochloride (0.71 g, 4.2 mmol) and pyridine (0.66 g, 8.3 mmol). The solution gradually warmed to room temperature, and was stirred for 72 hours. The reaction mixture was diluted with ethyl acetate (25 mL) and aqueous HCl (25 mL). The organic phase was separated, dried (MgSO4), filtered, and rotary evaporated. The resulting crude product was purified using silica gel chromatography (elution with dichloromethane/THF [9:1]) to give N-(4-cyano-benzyl)-3-iodo-benzamide (0.76 g, 51%) as a white solid. 1H-NMR (DMSO-d6) δ 9.2 (t, 1H), 8.2 (s, 1H), 7.9 (m, 2H), 7.8 (d, 2H), 7.5 (d, 2H), 7.3 (m, 1H), 4.5 (d, 2H) ppm.

reactant | 3-iodobenzoyl chloride | 4.2 mmol, 1.1 g | IC=1C=C(C(=O)Cl)C=CC1 | C7H4ClIO
reactant | 4-cyanobenzylamine hydrochloride | 4.2 mmol, 0.71 g | Cl.C(#N)C1=CC=C(CN)C=C1
reactant | pyridine | 8.3 mmol, 0.66 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 25 mL | Cl | ClH
product | N-(4-cyano-benzyl)-3-iodo-benzamide | 0.76 g, 51% | C(#N)C1=CC=C(CNC(C2=CC(=CC=C2)I)=O)C=C1 | C15H11IN2O
